US05021420
A mixture of 2-{3-[4-(3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho [1,8-cd]isothiazole 1,1-dioxide (11 g) in dmethylformamide (150 cc) is added over 30 minutes to sodium hydride (1.3 g) in a 50% dispersion in vaseline oil, under a current of argon, maintaining the temperature at about 20° C. The reaction medium is stirred for 2 hours at a temperature of about 20° C. then a solution of methyl iodide (3.9 g) in dioxane (50 cc) is added over 15 minutes. Stirring is maintained for 15 hours at a temperature of about 20° C. The reaction mixture is redissolved in distilled water (250 cc) and the organic phase is extracted with dichloromethane (4×100 cc) and then washed with distilled water (400 cc), dried over anhydrous magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue obtained is purified by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethane as eluant, and recrystallized from boiling methyl ethyl ketone (70 cc). 2-{3-[4-(1-Methyl-3-indolyl)1,2,3,6-tetrahydro-1-pyridyl]propyl }naphtho[1,8-cd]isothiazole 1,1-dioxide (3.3 g) is obtained, m.p. 161° C.

reactant | 2-{3-[4-(3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho [1,8-cd]isothiazole 1,1-dioxide | 11 g | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C26H25N3O2S
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | methyl iodide | 3.9 g | CI | CH3I
solvent | dioxane | 50 cc | O1CCOCC1 | C4H8O2
solvent | water | 250 cc | O | H2O
product | 2-{3-[4-(1-Methyl-3-indolyl)1,2,3,6-tetrahydro-1-pyridyl]propyl }naphtho[1,8-cd]isothiazole 1,1-dioxide | 3.3 g | CN1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C27H27N3O2S
